US07692033B2
Preparation of 2-benzoyloxyacetaldehyde diethyl acetal
Chloroacetaldehyde diethyl acetal (2.00 g), potassium benzoate (1.91 g), potassium bromide (0.30 g) and DMF (20 mL) were placed in a three-neck flask, followed by refluxing. Twenty hours later, the reaction mixture was cooled to room temperature, and water (30 mL) and ethyl acetate (80 mL) were added thereto, followed by stirring. After filtration, the organic layer was washed with water (30 mL) and was dried over anhydrous sodium sulfate. Subsequent filtration and vacuum concentration yielded the target compound (0.97 g) in a yield of 31%.

reactant | Chloroacetaldehyde diethyl acetal | 2.00 g | C(C)OC(CCl)OCC | C6H13ClO2
reactant | potassium benzoate | 1.91 g | C(C1=CC=CC=C1)(=O)[O-].[K+]
reactant | potassium bromide | 0.30 g | [Br-].[K+]
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 30 mL | O | H2O
product | 2-benzoyloxyacetaldehyde diethyl acetal | 0.97 g, yield of 31% | C(C)OC(COC(C1=CC=CC=C1)=O)OCC | C13H18O4
